US09023847B2
A solution of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-azido-1-phenyl-ethyl)-amide (120 mg, 0.27 mmol), 5% Pd/C (cat) in methanol (5 mL) was subjected to an atmosphere of hydrogen (balloon). After completion the solution was filtered and concentrated in vacuo. The residue was purified by ISCO Companion (silica, 10% methanol, methylene chloride, 1% ammonium hydroxide) to afford 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-1-phenyl-ethyl)-amide (80 mg, 75%) (ESI) 378 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 8.00 (1H, d, J=5.47 Hz) 7.82 (1H, d, J=5.42 Hz) 7.45 (1H, d, J=5.42 Hz) 7.25-7.35 (5H, m) 7.16-7.24 (1H, m) 6.75 (1H, d, J=5.47 Hz) 6.39 (1H, d, J=3.12 Hz) 4.97 (1H, dd, J=8.03, 5.34 Hz) 2.85-2.94 (1H, m) 2.77-2.85 (1H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-azido-1-phenyl-ethyl)-amide | 0.27 mmol, 120 mg | N(=[N+]=[N-])CC(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H17N7OS
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-1-phenyl-ethyl)-amide | 80 mg, 75% | NCC(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H19N5OS
